US07994185B2
N-({4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(4-morpholinyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}methyl)acetamide
Following a procedure analogous to the procedure described in Example 275 using N-{3-[5-[2-(aminomethyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.1 g, 0.178 mmol) and acetic acid (0.053 g, 0.889 mmol), the title compound was obtained as a solid (30 mg, 27% yield). MS (ESI): 605 [M+H]+.

reactant | N-{3-[5-[2-(aminomethyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.178 mmol, 0.1 g | NCC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H21F3N6O3S2
reactant | acetic acid | 0.889 mmol, 0.053 g | C(C)(=O)O | C2H4O2
product | N-({4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(4-morpholinyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}methyl)acetamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)CNC(C)=O)N1CCOCC1)F | C26H23F3N6O4S2
